Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematuria/clot retention
 
Major Surgical or Invasive Procedure:
None 

 
History of Present Illness:
Patient is a ___ with a hx of HTN, HLD, and BPH s/p TURP at
an OSH 3 weeks ago who presents with hematuria and clot
retention. 

Patient states that his TURP was done in ___. He chose this
facility as they accommodated his desires to accomplish this
procedure on an outpatient basis. He recovered in ___ for 
one
week and no acute postoperative issues were encountered. His
urine has been clear up until yesterday. At that time he states
that he was exercising and he started to develop new onset 
bright
hematuria. The bleeding continued to worsen throughout the day
and into the night and there were several episodes where he was
unable to void and decided to present to the ED. Per reports,
catheter placement was difficult initially and required several
different attempts. CBI was started. Urology was consulted as
urine continued to appear dark red upon initiation of CBI.  
 
Past Medical History:
HTN
HLD
BPH
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Gen: No acute distress, alert & oriented
HEENT: Extraocular movements intact, face symmetric
CHEST: Warm and well-perfused
BACK: Non-labored breathing, no CVA tenderness bilaterally
ABD: Soft, non-tender, non-distended, no guarding or rebound
EXT: Moves all extremities well
PSY: Appropriately interactive
GU: No foley catheter, patient voiding clear urine at time of 
discharge 
 
Pertinent Results:
___ 09:55AM BLOOD Hct-36.2*
___ 07:42AM BLOOD WBC-6.4 RBC-3.45* Hgb-10.7* Hct-33.0* 
MCV-96 MCH-31.0 MCHC-32.4 RDW-12.3 RDWSD-42.9 Plt ___
___ 12:47AM BLOOD WBC-8.0 RBC-3.81* Hgb-12.1* Hct-36.2* 
MCV-95 MCH-31.8 MCHC-33.4 RDW-12.1 RDWSD-42.3 Plt ___
___ 09:55AM BLOOD Glucose-94 UreaN-15 Creat-1.2 Na-141 
K-4.8 Cl-104 HCO3-28 AnGap-9*
___ 07:42AM BLOOD Glucose-98 UreaN-17 Creat-1.2 Na-139 
K-4.9 Cl-105 HCO3-24 AnGap-10

Urine culture: Negative
 
Brief Hospital Course:
Mr. ___ was admitted from the ED to the Urology service 
under Dr. ___ continuous bladder irrigation. He was 
monitored for several days and the irrigation was weaned over 
that span. After his urine cleared significantly and his hct 
remained stable, a void trial was attempted. He passed and his 
urine remained clear pink without any residual clots or 
remaining bleeding. He was discharged on HD4 and given specific 
instructions to not lift anything over 10 pounds or participate 
in significant exercise for the next month to prevent further 
episodes of bleeding. His urine culture was negative at the time 
of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Benicar (olmesartan) 25  mg oral Daily 
3. Tamsulosin 0.4 mg PO QHS 
4. Zolpidem Tartrate 5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
daily Disp #*30 Capsule Refills:*0 
2.  Atorvastatin 10 mg PO QPM  
3.  Benicar (olmesartan) 25  mg oral Daily  
4.  Tamsulosin 0.4 mg PO QHS  
5.  Zolpidem Tartrate 5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hematuria, clot retention 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Resume your pre-admission/home medications except as noted. 
ALWAYS call to inform, review and discuss any medication changes 
and your post-operative course with your primary care doctor.

-___ should always be taken with food. Please discontinue 
taking and notify your doctor should you develop blood in your 
stool (dark, tarry stools)

-Call your Urologist's office to schedule/confirm your follow-up 
appointment AND if you have any questions.

-If prescribed; always complete the full course of antibiotics

-Do not eat constipating foods for ___ weeks, drink plenty of 
fluids to keep hydrated

-No vigorous physical activity or sports for 2 weeks or until 
otherwise advised. Light household chores/activity and leisurely 
walking/activity is OK and should be continued. Do NOT be a 
“couch potato”

-Tylenol should be your first-line pain medication. A narcotic 
pain medication has been prescribed for breakthrough pain ___.

-Max daily Tylenol (acetaminophen) dose is THREE to FOUR grams 
from ALL sources

•AVOID lifting/pushing/pulling items heavier than 10 pounds (or 
3 kilos; about a gallon of milk) or participate in high 
intensity physical activity (which includes intercourse) until 
you are cleared by your Urologist in follow-up.

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-You may be given “prescriptions” for a stool softener and/or a 
gentle laxative. These are  over-the-counter medications that 
may be “health care spending account reimbursable.” 

-Colace (docusate sodium) may have been prescribed to avoid 
post-surgical constipation or constipation related to use of 
narcotic pain medications. Discontinue if loose stool or 
diarrhea develops. Colace is a stool-softener, NOT a laxative.

-Senokot (or any gentle laxative) may have been prescribed to 
further minimize your risk of constipation. 

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room.
 
Followup Instructions:
___